US04016182
The hydrazine may be added gradually or all at once. If the hydrazine is gradually added, intermediate reduction steps of the nitroanthraquinone employed, e.g. hydroxylaminoanthraquinone, may be isolated. The nitroanthraquinone used is preferably reacted directly to the amino step. The resulting amino compound may be isolated from the reaction mixture by methods known per se.

reactant | hydrazine | NN | H4N2
reactant | nitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
product | hydroxylaminoanthraquinone | ONC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO3
